US08802690B2
Methyl 2-bromoisonicotinate (216 g, 1 mol), dry acetonitrile (1.7 L), ethynyl(trimethyl)silane (117 g, 1.2 mol), diisopropylamine (122 g, 1.2 mol), and dichlorobis(triphenylphosphine)palladium (36 g, 0.05 mol) were placed into a well dried three necked flask which was twice purged with a stream of nitrogen. The reaction mixture was stirred for 0.5 hours, coded to 10° C., and copper iodide (19 g, 0.1 mol) was added under a stream of nitrogen. At 20° C., the reaction mixture became thick and black and an exotherm was observed which was followed by formation of a precipitate. After the addition of copper iodide, the reaction mixture was stirred for further 2 hours at ambient temperature. The precipitated residue was separated by filtration and twice washed with diethyl ether (800 mL). The filtrate was washed with saturated ammonium chloride (2×300 mL) and brine (2×300 mL). After drying over sodium sulfate, the solvent was evaporated. The residue was purified using a silica gel column, eluting with hexane followed by 5% ethyl acetate in petroleum ether to yield 191 g (82%) of methyl 2-((trimethylsilyl)ethynyl)isonicotinate.

reactant | Methyl 2-bromoisonicotinate | 1 mol, 216 g | BrC=1C=C(C(=O)OC)C=CN1 | C7H6BrNO2
reactant | ethynyl(trimethyl)silane | 1.2 mol, 117 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | diisopropylamine | 1.2 mol, 122 g | C(C)(C)NC(C)C | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium | 0.05 mol, 36 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.1 mol, 19 g | [Cu](I)I
solvent | acetonitrile | 1.7 L | C(C)#N | C2H3N
product | methyl 2-((trimethylsilyl)ethynyl)isonicotinate | 191 g, 82% | C[Si](C)(C)C#CC=1C=C(C(=O)OC)C=CN1 | C12H15NO2Si
